US08476434B2
To 2-fluoro-4-iodopyridine (9.45 g, 42.4 mmol), 2-chloropyridine-3-boronic acid (10.0 g, 63.5 mmol), Na2CO3 (13.5 g, 127 mmol), Pd(OAc)2 (480 mg, 2.12 mmol) and P(tBu)3·HBF4 (1.23 g, 4.24 mmol) was added dioxane (125 mL) and water (45 mL). The mixture was heated overnight at 100° C. in a sealed tube. The resulting mixture was diluted with EtOAc and extracted with water and brine. The organic layer was dried over Na2SO4, filtered and concentrated. The resulting solid was triturated with n-Hexanes and dried to yield 2-chloro-2′-fluoro-[3,4′]bipyridinyl. MS m/z=209 [M+1]+. Calc'd for C10H6ClFN2: 208.62.

reactant | 2-fluoro-4-iodopyridine | 42.4 mmol, 9.45 g | FC1=NC=CC(=C1)I | C5H3FIN
reactant | 2-chloropyridine-3-boronic acid | 63.5 mmol, 10.0 g | ClC1=NC=CC=C1B(O)O | C5H5BClNO2
reactant | Na2CO3 | 127 mmol, 13.5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 125 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 2.12 mmol, 480 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 45 mL | O | H2O
product | 2-chloro-2′-fluoro-[3,4′]bipyridinyl | ClC1=NC=CC=C1C1=CC(=NC=C1)F | C10H6ClFN2
